### PR TITLE
[Merged by Bors] - feat(Data/Finsupp): characterise when `Finsupp` is `Nontrivial`

### PR DESCRIPTION
**Pull request by YaelDillies**
From ClassFieldTheory

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Single.lean [hunk 1]
```diff
@@ -186,6 +185,13 @@ instance instNontrivial [Nonempty α] [Nontrivial M] : Nontrivial (α →₀ M)
   rcases exists_ne (0 : M) with ⟨x, hx⟩
   exact nontrivial_of_ne (single default x) 0 (mt single_eq_zero.1 hx)
 
+lemma nontrivial_iff : Nontrivial (α →₀ M) ↔ Nonempty α ∧ Nontrivial M where
+  mp := by
+    rintro ⟨f, g, hfg⟩
+    obtain ⟨a, ha⟩ : ∃ a, f a ≠ g a := by simpa [Finsupp.ext_iff] using hfg
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Single.lean]:
```suggestion
    intro ⟨f, g, hfg⟩
    obtain ⟨a, ha⟩ := ne_iff.mp hfg
```

**Review by joneugster — COMMENTED** [review]
Thank you, these seem useful to have

maintainer delegate

File: Mathlib/Data/Finsupp/Single.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/Finsupp/Single.lean]: Don't see why I would use `intro` since it is a strictly worse tactic, but nice golf otherwise
